US09120793B2
(S)-3-(4-{2-[4-(3-Hydroxy-3-methyl-butoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy}-phenyl)-hex-4-ynoic acid ethyl ester
To a stirred solution of (S)-3-{4-[2-(4-hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester (0.2 g, 0.43 mmol) in acetonitrile (20 mL) is added 4-bromo-2-methyl-butan-2-ol (0.14 g, 0.87 mmol) and cesium carbonate (0.41 g, 1.2 mmol) and the reaction mixture is stirred at room temperature for 2 hours. The reaction mixture is filtered and evaporated to dryness. The crude material is purified by silica gel chromatography (combiflash purifier 24 g redisep column) and is eluted with 15-20% EtOAc in hexane to give the title compound (0.23 g, 100%). LCMS m/z 542 (M+H)+.

reactant | (S)-3-{4-[2-(4-hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester | 0.43 mmol, 0.2 g | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=CC=C(C=C2)O)=O | C27H25N3O4
reactant | 4-bromo-2-methyl-butan-2-ol | 0.87 mmol, 0.14 g | BrCCC(C)(O)C | C5H11BrO
reactant | cesium carbonate | 1.2 mmol, 0.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (S)-3-(4-{2-[4-(3-Hydroxy-3-methyl-butoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy}-phenyl)-hex-4-ynoic acid ethyl ester | 0.23 g, 100% | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=CC=C(C=C2)OCCC(C)(C)O)=O | C32H35N3O5
